2161-01-26 19:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2161-1-25**] 10:22 AM
 ARTERIAL LINE - STOP [**2161-1-25**] 08:00 PM
   History obtained from Medical records
   Allergies:
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-26**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-26**] 04:00 PM
   Metronidazole - [**2161-1-26**] 06:11 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2161-1-26**] 04:38 AM
   Famotidine (Pepcid) - [**2161-1-26**] 08:18 AM
   Morphine Sulfate - [**2161-1-26**] 10:07 AM
   Furosemide (Lasix) - [**2161-1-26**] 10:12 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-26**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2161-1-26**] 07:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 116 (105 - 121) bpm
   BP: 113/59(71) {79/47(58) - 132/79(87)} mmHg
   RR: 36 (12 - 41) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 9 (4 - 17)mmHg
   Total In:
                                                                  4,487 mL
                                                                  3,382 mL
   PO:
   TF:
   IVF:
                                                                  4,487 mL
                                                                  3,382 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                  3,885 mL
   Urine:
                                                                  1,060 mL
                                                                  3,775 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    110 mL
   Balance:
                                                                  2,777 mL
                                                                   -503 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 359 (359 - 1,038) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 19 cmH2O
   SpO2: 92%
   ABG: ///28/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   797 K/uL
   91 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   27.0 %
   26.8 K/uL
        [image002.jpg]
                             [**2161-1-24**]  05:01 AM
                             [**2161-1-24**]  05:23 AM
                             [**2161-1-24**]  09:30 AM
                             [**2161-1-24**]  10:49 AM
                             [**2161-1-24**]  05:21 PM
                             [**2161-1-25**]  04:50 AM
                             [**2161-1-25**]  05:31 AM
                             [**2161-1-25**]  03:50 PM
                             [**2161-1-26**]  04:07 AM
                             [**2161-1-26**]  01:49 PM
   WBC
   24.8
   29.8
   34.3
   37.3
   26.8
   26.8
   Hct
   32.6
   36
   31.1
   29.5
   28.4
   25.9
   27.0
   Plt
   1[**Telephone/Fax (5) 5345**]
   909
   813
   797
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.6
   0.7
   TCO2
   21
   22
   27
   Glucose
   88
   85
   75
   82
   78
   85
   91
   Other labs: PT / PTT / INR:14.7/36.6/1.3, ALT / AST:[**7-14**], Alk Phos / T
   Bili:97/0.7, Amylase / Lipase:[**10-6**], Differential-Neuts:96.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.0 g/dL, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   51 yo male s/p proctectomy and re-anastamosis with diverting ileostomy
   and now admitted to [**Hospital Unit Name 1**] post ileostomy takedown.  He was extubated but
   has required intermittent ventilatory support through mask ventilation
   in the setting of intermittent hypoxemia.  This is in part likely
   attributable to pulmonary edema but may well be in part slow to resolve
   atelectasis and residual secretions.
   1)Respiratory Failure-
   -Maintain negative fluid balance as possible
   -Intermittent BIPAP mask ventilation as needed
   -Would encouage cough and maintain pain control as needed to allow full
   pulmonary toilet
   -Incetive spirometry as possible with hypoxemia and respiratory
   compromise
   -OOB to chair as soon as possible.
   Additional active issues to be addressed as defined in the surgery note
   as of this date.
 PULMONARY EDEMA
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-1-23**] 06:51 PM
   Indwelling Port (PortaCath) - [**2161-1-23**] 06:52 PM
   16 Gauge - [**2161-1-23**] 06:52 PM
   18 Gauge - [**2161-1-23**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2161-01-27 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2161-1-26**] 10:10 AM
 EKG - At [**2161-1-26**] 10:30 AM
   -Lasix drip started with reasonable response in regards to mobilization
   of fluid and improved respiratory status
   -Move to nasal cannula this am
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-27**] 08:00 AM
   Metronidazole - [**2161-1-27**] 10:15 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-1-26**] 09:59 PM
   Hydromorphone (Dilaudid) - [**2161-1-27**] 05:46 AM
   Famotidine (Pepcid) - [**2161-1-27**] 08:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-27**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.4
   HR: 109 (104 - 116) bpm
   BP: 121/72(82) {96/54(66) - 121/75(83)} mmHg
   RR: 21 (19 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 4 (3 - 12)mmHg
   Total In:
                                                                  3,934 mL
                                                                    787 mL
   PO:
   TF:
   IVF:
                                                                  3,934 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                  1,635 mL
   Urine:
                                                                  4,415 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
                                                                     25 mL
   Balance:
                                                                   -591 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 359 (359 - 359) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   762 K/uL
   86 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   102 mEq/L
   138 mEq/L
   27.4 %
   18.9 K/uL
        [image002.jpg]
                             [**2161-1-24**]  09:30 AM
                             [**2161-1-24**]  10:49 AM
                             [**2161-1-24**]  05:21 PM
                             [**2161-1-25**]  04:50 AM
                             [**2161-1-25**]  05:31 AM
                             [**2161-1-25**]  03:50 PM
                             [**2161-1-26**]  04:07 AM
                             [**2161-1-26**]  01:49 PM
                             [**2161-1-26**]  07:15 PM
                             [**2161-1-27**]  03:18 AM
   WBC
   29.8
   34.3
   37.3
   26.8
   26.8
   18.9
   Hct
   31.1
   29.5
   28.4
   25.9
   27.0
   27.4
   Plt
   1039
   966
   909
   [**Telephone/Fax (3) 5370**]
   Cr
   1.0
   1.0
   0.9
   0.8
   0.6
   0.7
   0.7
   0.6
   TCO2
   22
   27
   Glucose
   85
   75
   82
   78
   85
   91
   79
   86
   Other labs: PT / PTT / INR:15.4/33.0/1.4, ALT / AST:15/26, Alk Phos / T
   Bili:112/0.4, Amylase / Lipase:[**10-6**], Differential-Neuts:96.0 %,
   Band:2.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L,
   Albumin:1.9 g/dL, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR-Right side with mild improvement in right based but really
   with no significant change in left lung field.
   Microbiology: No new positive results
   Assessment and Plan
   51 yo male with history of metastatic colon cancer and now s/p
   ileostomy take down and complicated by perforation, small bowel
   obstruction and urgent partial colectomy with end ileostomy and
   hartmann's pouch now admitted to the [**Hospital Ward Name **] ICU post operatively with
   issues of respiratory failure, volme overload and continued management
   of peritonitis/wound infection.
   1)Respiratory Failure--patient off mask ventilation and has continued
   support with O2 weaning with volume overload and post operative
   atelectasis driving the persistent oxygen requirement.  In agreement
   with surgical team, will-->
   -Continue with incentive spirometry
   -OOB as soon as possible
   -Wean O2 as tolerated--and has moved to nasal cannula this morning
   -Diuresis with goal negative as much as is possible--CVP=10 and based
   on available literature if tolerable in post operative state a goal
   closer to [**5-6**] for CVP would be ideal
   2)Colon Cancer-
   -Will continue with TPN
   -Pain control with PCA
   -Will follow exam
   3)Sepsis/Peritonitis-
   -Vanco/Zosyn/Flagyl
 PULMONARY EDEMA
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-1-23**] 06:51 PM
   Indwelling Port (PortaCath) - [**2161-1-23**] 06:52 PM
   16 Gauge - [**2161-1-23**] 06:52 PM
   18 Gauge - [**2161-1-23**] 06:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2161-01-28 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-27**] 11:00 PM
   Metronidazole - [**2161-1-28**] 02:06 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-1-27**] 07:49 PM
   Lorazepam (Ativan) - [**2161-1-27**] 08:53 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-27**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-28**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 107 (105 - 117) bpm
   BP: 121/68(80) {97/49(62) - 126/78(87)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 68.2 kg
   Height: 68 Inch
    CVP: 0 (0 - 4)mmHg
   Total In:
                                                                  1,565 mL
                                                                    466 mL
   PO:
   TF:
   IVF:
                                                                  1,565 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    980 mL
   Urine:
                                                                  2,195 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
                                                                     50 mL
   Balance:
                                                                 -1,055 mL
                                                                   -514 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   713 K/uL
   9.8 g/dL
   73 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   9 mg/dL
   100 mEq/L
   139 mEq/L
   29.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2161-1-24**]  05:21 PM
                             [**2161-1-25**]  04:50 AM
                             [**2161-1-25**]  05:31 AM
                             [**2161-1-25**]  03:50 PM
                             [**2161-1-26**]  04:07 AM
                             [**2161-1-26**]  01:49 PM
                             [**2161-1-26**]  07:15 PM
                             [**2161-1-27**]  03:18 AM
                             [**2161-1-27**]  01:35 PM
                             [**2161-1-28**]  03:22 AM
   WBC
   34.3
   37.3
   26.8
   26.8
   18.9
   13.1
   Hct
   29.5
   28.4
   25.9
   27.0
   27.4
   28.9
   29.6
   Plt
   966
   909
   813
   797
   762
   713
   Cr
   1.0
   0.9
   0.8
   0.6
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   27
   Glucose
   75
   82
   78
   85
   91
   79
   86
   83
   73
   Other labs: PT / PTT / INR:16.2/32.8/1.4, ALT / AST:15/26, Alk Phos / T
   Bili:112/0.4, Amylase / Lipase:[**10-6**], Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.0 g/dL, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   51 yo male with history of metastatic colon cancer and now s/p
   ileostomy take down and complicated by perforation, small bowel
   obstruction and urgent partial colectomy with end ileostomy and
   hartmann's pouch now admitted to the [**Hospital Ward Name **] ICU post operatively with
   issues of respiratory failure, volme overload and continued management
   of peritonitis/wound infection.
   1)Respiratory Failure--patient off mask ventilation and has continued
   support with O2 weaning with volume overload and post operative
   atelectasis driving the persistent oxygen requirement.  In agreement
   with surgical team, will-->
   -Continue with incentive spirometry
   -OOB as soon as possible
   -Wean O2 as tolerated--and has moved to nasal cannula this morning
   -Diuresis with goal negative as much as is possible--CVP=10 and based
   on available literature if tolerable in post operative state a goal
   closer to [**5-6**] for CVP would be ideal
   2)Colon Cancer-
   -Will continue with TPN
   -Pain control with PCA
   -Will follow exam
   3)Sepsis/Peritonitis-
   -Vanco/Zosyn/Flagyl
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-1-23**] 06:51 PM
   Indwelling Port (PortaCath) - [**2161-1-23**] 06:52 PM
   18 Gauge - [**2161-1-23**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-01-28 11:59:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Diruesis to 1 liter negative completed
   Increased dosing with PCA with good effect in terms of control
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-28**] 07:52 AM
   Metronidazole - [**2161-1-28**] 10:18 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-1-27**] 08:53 PM
   Famotidine (Pepcid) - [**2161-1-28**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-28**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-28**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 113 (105 - 117) bpm
   BP: 123/72(84) {97/49(62) - 126/78(87)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 68.2 kg
   Height: 68 Inch
   CVP: 5 (0 - 5)mmHg
   Total In:
                                                                  1,565 mL
                                                                    781 mL
   PO:
   TF:
   IVF:
                                                                  1,565 mL
                                                                    781 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                  1,320 mL
   Urine:
                                                                  2,195 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
                                                                     50 mL
   Balance:
                                                                 -1,055 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Tender:
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   713 K/uL
   73 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   9 mg/dL
   100 mEq/L
   139 mEq/L
   29.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2161-1-24**]  05:21 PM
                             [**2161-1-25**]  04:50 AM
                             [**2161-1-25**]  05:31 AM
                             [**2161-1-25**]  03:50 PM
                             [**2161-1-26**]  04:07 AM
                             [**2161-1-26**]  01:49 PM
                             [**2161-1-26**]  07:15 PM
                             [**2161-1-27**]  03:18 AM
                             [**2161-1-27**]  01:35 PM
                             [**2161-1-28**]  03:22 AM
   WBC
   34.3
   37.3
   26.8
   26.8
   18.9
   13.1
   Hct
   29.5
   28.4
   25.9
   27.0
   27.4
   28.9
   29.6
   Plt
   966
   909
   813
   797
   762
   713
   Cr
   1.0
   0.9
   0.8
   0.6
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   27
   Glucose
   75
   82
   78
   85
   91
   79
   86
   83
   73
   Other labs: PT / PTT / INR:16.2/32.8/1.4, ALT / AST:15/26, Alk Phos / T
   Bili:112/0.4, Amylase / Lipase:[**10-6**], Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.0 g/dL, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   51 yo male admitted to ICU post operatively with perforation at
   presentation now with improved respiratory status and hemodynamics
   following extubation.
   1)Respiratory Filure-
   -Continue with incentive spirometry
   -OOB to chair
   -Will need to maintain negative fluid balance as possible
   -Move to Lasix po BID
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -PCA updated
   3)Sepsis-
   -Continue with current antibiotics
   -Cultures negative to date
 PULMONARY EDEMA
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-1-23**] 06:51 PM
   Indwelling Port (PortaCath) - [**2161-1-23**] 06:52 PM
   18 Gauge - [**2161-1-23**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: F ull Code
   Disposition : To Floor
   Total time spent: 35